US04923871
Methyl 2-(N-benzyl-N-methylamino)ethyl 2,6-dimethyl-4-(2-methylpyrazolo[1,5-a]pyridin-3-yl)-1,4-dihydropyridine-3,5-dicarboxylate
A solution of 24.9 g of methyl 2-acetyl-3-(2-methylpyrazolo[1,5-a]pyridin-3-yl)acrylate and 28.8 g of 2-(N-benzyl-N-methylamino)ethyl 3-aminocrotonate in 125 ml of isopropylalcohol was refluxed for 8.5 hours, then concentrated. The resulting residue was dissolved in 100 ml of ethyl acetate, washed with 1 N-hydrochloric acid, and then extracted with 2 N-hydrochloric acid three times. The resulting hydrochloric acid layer was alkalized with 5 N-aqueous sodium hydroxide at pH 9, and then extracted with ethyl acetate. The ethyl acetate layer was washed with salt water, dried over anhydrous sodium sulfate and then concentrated. Hexane was added to the resulting residue, and insoluble layer was collected, then recrystallized from diethyl ether-hexane mixtures.

reactant | methyl 2-acetyl-3-(2-methylpyrazolo[1,5-a]pyridin-3-yl)acrylate | 24.9 g | C(C)(=O)C(C(=O)OC)=CC=1C(=NN2C1C=CC=C2)C | C14H14N2O3
reactant | 2-(N-benzyl-N-methylamino)ethyl 3-aminocrotonate | 28.8 g | N\C(=C/C(=O)OCCN(C)CC1=CC=CC=C1)\C | C14H20N2O2
solvent | isopropylalcohol | 125 ml | C(C)(C)O | C3H8O
product | Methyl 2-(N-benzyl-N-methylamino)ethyl 2,6-dimethyl-4-(2-methylpyrazolo[1,5-a]pyridin-3-yl)-1,4-dihydropyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OC)C=1C(=NN2C1C=CC=C2)C)C(=O)OCCN(C)CC2=CC=CC=C2)C | C28H32N4O4
